US07141595B2
6-Nitro-2-(2-pyrrolidin-1-yl-ethylamino)benzothiazole
A mixture of 2-chloro-6-nitrobenzothiazole (250 mg, 1.16 mmol) and 2-pyrrolidin-1-yl-ethylamine (0.59 mL, 4.66 mmol) was heated at 100° C. for 4 hours then at 60° C. for 16 hours. After this time, the reaction mixture was filtered and the precipitate was washed with 2×5 mL of H2O. The solid was subjected to silica gel column chromatography (7.5% MeOH:92.5% CH2Cl2) to give the title compound as a yellow residue. Yield: 20.6%, 1H-NMR (DMSO-d6): δ 8.80 (br s, 1H); 8.70 (d, 1H, J=2.4 Hz); 8.11 (dd, 1H, J=6.8, 2.4 Hz); 7.47 (d, 1H, J=8.8 Hz); 3.58 (m, 2H); 2.60 (m, 6H); 1.73 (m, 2H).

reactant | 2-chloro-6-nitrobenzothiazole | 1.16 mmol, 250 mg | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
reactant | 2-pyrrolidin-1-yl-ethylamine | 4.66 mmol, 0.59 mL | N1(CCCC1)CCN | C6H14N2
product | 6-Nitro-2-(2-pyrrolidin-1-yl-ethylamino)benzothiazole | Yield: 20.6% | [N+](=O)([O-])C1=CC2=C(N=C(S2)NCCN2CCCC2)C=C1 | C13H16N4O2S
